US09302991B2
<Step-7>:(5-acetyl-2-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl acetate
A mixture of 1-(5-(hydroxymethyl)-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone (0.16 g, 0.64 mmol, Step-6), acetic anhydride (0.18 mL, 1.91 mmol) and triethylamine (0.44 mL, 3.19) in dichloromethane (4 mL) is stirred at room temperature for 3 days. The reaction mixture is poured into water, extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo to give 0.16 g (86% yield) of the title compound as colorless oil. This material is used for the next reaction (Step-8) without further purification.

reactant | 1-(5-(hydroxymethyl)-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanone | 0.64 mmol, 0.16 g | OCC=1C=C(C=NC1OCC(F)(F)F)C(C)=O | C10H10F3NO3
reactant | acetic anhydride | 1.91 mmol, 0.18 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.44 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (5-acetyl-2-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl acetate | 0.16 g, 86% yield | C(C)(=O)OCC=1C(=NC=C(C1)C(C)=O)OCC(F)(F)F | C12H12F3NO4
